US08232312B2
tert.butyl [[1-(5-chloro-1H-indol-2-carbonyl)-2,3-dihydro-1H-indol-5-yl]-(3,5-dichloro-phenylsulphonyl)-amino]-acetate
55 mg 5-chloro-1H-indol-2-carboxylic acid are dissolved in 2 ml of thionyl chloride and heated to 80° C. for 1 hour. The solvent is eliminated in vacuo and the residue is twice combined with dichloromethane and the latter is eliminated again in vacuo. The residue is taken up in 5 ml dichloromethane and the solution is added dropwise to a mixture of 100 mg tert.butyl [(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-acetate and 60 mg potassium carbonate in 2 ml dimethylformamide. The mixture is stirred for 2 hours at ambient temperature, diluted with ethyl acetate and washed with 1 N HCl and saturated sodium chloride solution. After drying with magnesium sulphate the solvents are eliminated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 10:1 to 1:2).

reactant | 5-chloro-1H-indol-2-carboxylic acid | 55 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | tert.butyl [(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-acetate | 100 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCNC2=CC1)CC(=O)OC(C)(C)C | C20H22Cl2N2O4S
reactant | potassium carbonate | 60 mg | C([O-])([O-])=O.[K+].[K+]
solvent | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert.butyl [[1-(5-chloro-1H-indol-2-carbonyl)-2,3-dihydro-1H-indol-5-yl]-(3,5-dichloro-phenylsulphonyl)-amino]-acetate | ClC=1C=C2C=C(NC2=CC1)C(=O)N1CCC2=CC(=CC=C12)N(S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl)CC(=O)OC(C)(C)C | C29H26Cl3N3O5S
